US04806143
An aqueous solution prepared by dissolving 280 mg of potassium carbonate in 2.5 ml of water was added to a solution of 100 mg of n-butyl 5,6-dichloroindole-3-acetate in 10 ml of methanol. After 1.5 hours of refluxing, the methanol was removed from the reaction solution under reduced pressure, and the aqueous solution thus obtained was extracted with ethyl acetate. The aqueous phase was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate phase was washed with distilled water and a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure to obtain a crude product. The crude product was purified by a silica gel thin-layer chromatography to obtain 27 mg of 5,6-dichloroindole-3-acetic acid.

reactant | potassium carbonate | 280 mg | C([O-])([O-])=O.[K+].[K+]
reactant | n-butyl 5,6-dichloroindole-3-acetate | 100 mg | ClC=1C=C2C(=CNC2=CC1Cl)CC(=O)OCCCC | C14H15Cl2NO2
solvent | water | 2.5 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 5,6-dichloroindole-3-acetic acid | 27 mg | ClC=1C=C2C(=CNC2=CC1Cl)CC(=O)O | C10H7Cl2NO2
